US07678815B2
1-Cyclopropylmethyl-1H-pyrazol-3-ylamine
3-Aminopyrazole (2.43 g, 29 mmol) were dissolved in 30 ml DMSO. Potassium hydroxide (4.8 g, 86 mmol) was added and the mixture was stirred at room temperature for 30 min. (Bromomethyl)cyclopropane (4.4 g, 32 mmol) was added and stirring was continued at room temperature overnight. The reaction mixture was poured into 100 ml brine and extracted three time with 100 ml ethyl acetate. The organic phases were pooled, dried with sodium sulfate and evaporated. The two regiosomers were separated by flash chromatography and the title compound was obtained as a brown oil (1.739 g, 31%).

reactant | 3-Aminopyrazole | 29 mmol, 2.43 g | NC1=NNC=C1 | C3H5N3
reactant | Potassium hydroxide | 86 mmol, 4.8 g | [OH-].[K+]
reactant | (Bromomethyl)cyclopropane | 32 mmol, 4.4 g | BrCC1CC1 | C4H7Br
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 1-Cyclopropylmethyl-1H-pyrazol-3-ylamine | C1(CC1)CN1N=C(C=C1)N | C7H11N3
